US05929074
4-Chloro-5-[3-{3-(4-ethylpiperazin-1-yl)-propoxy}-4-methoxybenzylamino]-3(2H)-pyridazinone
A mixture comprising 1.0 g of 4-chloro-5-[3-{3-(4-formylpiperazin-1-yl)-propoxy}-4-methoxybenzylamino]-3(2H)-pyridazinone, 0.62 g of potassium hydroxide, 7 ml of ethanol and 7 ml of water, was refluxed under heating with stirring for 3.5 hours, and then 0.32 g of potassium carbonate and 570 mg of ethyl bromide were added thereto. The mixture was stirred at 60° C. for 4 hours. The solvent was distilled off under reduced pressure, and water was added to the obtained residue. The mixture was extracted with chloroform. The extract solution was washed with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off. The obtained residue was purified by silica gel column chromatography to obtain 0.50 g of the above-identified compound as slightly brown solid.

reactant | 4-chloro-5-[3-{3-(4-formylpiperazin-1-yl)-propoxy}-4-methoxybenzylamino]-3(2H)-pyridazinone | 1.0 g | ClC=1C(NN=CC1NCC1=CC(=C(C=C1)OC)OCCCN1CCN(CC1)C=O)=O | C20H26ClN5O4
reactant | potassium hydroxide | 0.62 g | [OH-].[K+]
reactant | potassium carbonate | 0.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 570 mg | C(C)Br | C2H5Br
solvent | water | 7 ml | O | H2O
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 4-Chloro-5-[3-{3-(4-ethylpiperazin-1-yl)-propoxy}-4-methoxybenzylamino]-3(2H)-pyridazinone | 0.50 g | ClC=1C(NN=CC1NCC1=CC(=C(C=C1)OC)OCCCN1CCN(CC1)CC)=O | C21H30ClN5O3
